US08748626B2
To a solution of ethyl 3-bromo-2-oxo-4-phenylbutanoate (13.8 g, 48.4 mmol) in MeOH (161 mL) was slowly added 2,5-difluorobenzothioamide (8.38 g, 48.4 mmol) at room temperature. The reaction mixture was then refluxed for overnight. After cooled down, white precipitate was filtered, washed by cold ethanol and dried. A mixture of methyl 5-benzyl-2-(2,5-difluorophenyl)thiazole-4-carboxylate and ethyl 5-benzyl-2-(2,5-difluorophenyl)thiazole-4-carboxylate (10.5 g, 61%) was obtained as white solid. LC/MS (uplc): MW 346.1, 1.21 min for methyl ester; 360.1, 1.27 min for ethyl ester.

reactant | ethyl 3-bromo-2-oxo-4-phenylbutanoate | 48.4 mmol, 13.8 g | BrC(C(C(=O)OCC)=O)CC1=CC=CC=C1 | C12H13BrO3
reactant | 2,5-difluorobenzothioamide | 48.4 mmol, 8.38 g | FC1=C(C(N)=S)C=C(C=C1)F | C7H5F2NS
solvent | MeOH | 161 mL | CO | CH4O
product | ethyl 5-benzyl-2-(2,5-difluorophenyl)thiazole-4-carboxylate | 10.5 g, 61% | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)C(=O)OCC | C19H15F2NO2S
